US05624943
Under the conditions of example 1 D, 9.8 g of 2-iodo-3-methoxy-pyridine-6-carboxylic acid is reacted with 2.5 ml of iodomethane and worked up. 7.4 g of 2-iodo-3-methoxypyridine-6-carboxylic acid methyl ester of melting point 175°-178° C. is obtained.

reactant | 2-iodo-3-methoxy-pyridine-6-carboxylic acid | 9.8 g | IC1=NC(=CC=C1OC)C(=O)O | C7H6INO3
reactant | iodomethane | 2.5 ml | IC | CH3I
product | 2-iodo-3-methoxypyridine-6-carboxylic acid methyl ester | 7.4 g | COC(=O)C1=CC=C(C(=N1)I)OC | C8H8INO3
